US06087380
1-Methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
0.52 g (1.0 mMol) of 1-Methyl-2-[(4-amidinophenyl)-thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride was dissolved in 15 ml ethanol, mixed with 5 ml of 2N sodium hydroxide solution and stirred for 2 hours at room temperature. Then 5 ml of water were added, the alcohol was distilled off, and it was acidified with concentrated hydrochloric acid. The water was distilled off in vacuo, and the crude product was taken up in 5 ml of ethanol and filtered to remove the insoluble sodium chloride. After the solvent had been distilled off the title compound was obtained as a white solid. Yield: 0.43 g (88% of theory), Rf value: 0.19 (silica gel; ethyl acetate/ethanol/ammonia =50:45:5) C23H27N5O3S (453.57) ##EQU10##

reactant | 1-Methyl-2-[(4-amidinophenyl)-thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | 1.0 mMol, 0.52 g | Cl.C(CC)N(C(=O)C1=CC2=C(N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Cl.C(CC)N(C(=O)C1=CC2=C(N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)O | InChI=1S/C23H27N5O3S.ClH/c1-3-11-28(12-10-21(29)30)23(31)16-6-9-19-18(13-16)26-20(27(19)2)14-32-17-7-4-15(5-8-17)22(24)25;/h4-9,13H,3,10-12,14H2,1-2H3,(H3,24,25)(H,29,30);1H
